US08809371B2
A methanol (10 ml) solution containing 7-nitro-3-(1H-pyrazol-1-yl)quinoline (36 mg) was prepared and subjected to a hydrogenation reaction (80° C.; 50 bar; flow rate: 1 ml/min; 10% Pd/C) using H-cube™. Thereafter, the solvent was distilled away under reduced pressure, and a purple solid of 3-(1H-pyrazol-1-yl)quinolin-7-amine (20 mg) was thus obtained.

reactant | 7-nitro-3-(1H-pyrazol-1-yl)quinoline | 36 mg | [N+](=O)([O-])C1=CC=C2C=C(C=NC2=C1)N1N=CC=C1 | C12H8N4O2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 3-(1H-pyrazol-1-yl)quinolin-7-amine | 20 mg | N1(N=CC=C1)C=1C=NC2=CC(=CC=C2C1)N | C12H10N4
